US08754101B2
To a suspension of methyl 5-chloroimidazo[1,2-a]pyridine-8-carboxylate (1.115 g, 5.29 mmol) and tributyl({[(methyloxy)methyl]oxy}methyl)stannane (2.03 g, 5.56 mmol) in anhydrous toluene (10 mL) was added chloro(di-2-norbonylphosphino)(2′-dimethylamino-1,1′-biphenyl-2-yl)palladium (II) (300 mg, 0.535 mmol). The reaction vessel was sealed and heated in a Biotage Initiator microwave using initial absorption setting high to 170° C. for 1 hour. After cooling the reaction was poured onto a biphasic mixture of ethyl acetate (100 mL) and an aqueous potassium floride solution (2 g in 100 mL). The mixture was stirred rapidly and filtered through a pad of celite (10 g). The biphasic filtrate was separated and the aqueous layer back extracted with ethyl acetate (2×100 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was dissolved in DCM and purified on a silica cartridge (100 g) using a 0-15% methanol-DCM gradient over 60 min. The appropriate fractions were combined and evaporated in vacuo to give impure material which was subjected to a second chromatographic purification on silica (100 g) using a 0-100% ethyl acetate-DCM gradient over 40 min followed by a 0-15% methanol-DCM gradient over 40 min. The appropriate fractions were combined and evaporated in vacuo to give still impure methyl 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate (302 mg, purity by LCMS/UV ca 65%) which was used directly in the next step.

reactant | methyl 5-chloroimidazo[1,2-a]pyridine-8-carboxylate | 5.29 mmol, 1.115 g | ClC1=CC=C(C=2N1C=CN2)C(=O)OC | C9H7ClN2O2
reactant | tributyl({[(methyloxy)methyl]oxy}methyl)stannane | 5.56 mmol, 2.03 g | C(CCC)[Sn](COCOC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate | 302 mg, ca 65% | COCOCC1=CC=C(C=2N1C=CN2)C(=O)OC | C12H14N2O4
